US08071588B2
5-(Chloromethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine
To the solution of thionyl chloride (1.46 mL, 20.0 mmol) was added [1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (0.609 g, 2.0 mmol) slowly. The mixture was stirred at room temperature for about 30 mins before it was concentrated on rotavap under vacuum. DCM (5 ml) was added to the residue and concentrated on rotavap twice to afford 0.386 g (60%) of the title compound.

reactant | thionyl chloride | 20.0 mmol, 1.46 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 2.0 mmol, 0.609 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CO)CC | C16H24N4O2
product | 5-(Chloromethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.386 g, 60% | ClCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H23ClN4O
